US05424303
A mixture containing 2 g (9.7 mmol) 2,6-di-tert-butyl phenol, 0.4 g NaOH dissolved in 4 ml water, 13.7 g (60.1 mmol) benzyl triethyl ammonium chloride and 12 g (84.5 mmol) methyl iodide was heated at 45° for 18 h. After purification 0.67 g 2,6-di-tert-butyl anisol was obtained. This compound (1.46 g, 6.63 mmol) was formylated by reaction at 0° C. with dichloromethyl methyl ether (1.15 g, 10 mmol) in presence of tin tetrachloride (3.1 g, 11.9 mmol) in 20 ml CH2Cl2. After hydrolysis and extraction into ether, 1.15 g of 3,5-di-tert-butyl-4-methoxybenzaldehyde were obtained (MS: m/e=248: M+; 233=M+ --CH3).

reactant | 2,6-di-tert-butyl phenol | 9.7 mmol, 2 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | NaOH | 0.4 g | [OH-].[Na+]
reactant | methyl iodide | 84.5 mmol, 12 g | CI | CH3I
reactant | dichloromethyl methyl ether | 10 mmol, 1.15 g | COC(Cl)Cl | C2H4Cl2O
reactant | tin tetrachloride | 11.9 mmol, 3.1 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | water | 4 ml | O | H2O
catalyst | benzyl triethyl ammonium chloride | 60.1 mmol, 13.7 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3,5-di-tert-butyl-4-methoxybenzaldehyde | 1.15 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)(C)C | C16H24O2
